US08802678B2
A mixture of 3.0 g (16 mmol) of 1-(1,1-difluoroethyl)-3-nitrobenzene, 18.0 g (80 mmol) of tin chloride dihydrate and 50 mL of ethanol is refluxed for one hour. The mixture is slowly poured on cooled water. The pH is adjusted to 7 by addition of an aqueous 10N solution of sodium hydroxide, then adjusted to 9 by addition of an aqueous saturated solution of sodium hydrogen carbonate. The product is extracted 4 times with ethyl acetate. The organic phases are combined, dried over magnesium sulfate, filtered and concentrated under reduced pressure. The oily residue (2.2 g) is purified over 100 g of silica gel (eluant heptane/ethyl acetate 2/1) to give 1.7 g (68%) of 3-(1,1-difluoroethyl)aniline as an oil.

reactant | 1-(1,1-difluoroethyl)-3-nitrobenzene | 16 mmol, 3.0 g | FC(C)(F)C1=CC(=CC=C1)[N+](=O)[O-] | C8H7F2NO2
reactant | tin chloride dihydrate | 80 mmol, 18.0 g | O.O.[Sn](Cl)(Cl)(Cl)Cl
reactant | sodium hydroxide | [OH-].[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | water | O | H2O
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 3-(1,1-difluoroethyl)aniline | 1.7 g, 68% | FC(C)(F)C=1C=C(N)C=CC1 | C8H9F2N
